US09403798B2
[5-(2,2,2-Trifluoroethoxy)pyridin-2-yl]methyl methanesulfonate
To a dichloromethane solution (2.8 mL) of [5-(2,2,2-trifluoroethoxy)pyridin-2-yl]methanol (138 mg, 0.67 mmol), triethylamine (468 μL, 3.33 mmol) and methanesulfonyl chloride (77.4 μL, 1.00 mmol) were added at 0° C. and the resultant solution was stirred for 30 minutes. After completion of the reaction, the reaction solution was washed with saturated ammonium chloride aqueous solution and brine. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product (129 mg) of the title compound.

reactant | [5-(2,2,2-trifluoroethoxy)pyridin-2-yl]methanol | 0.67 mmol, 138 mg | FC(COC=1C=CC(=NC1)CO)(F)F | C8H8F3NO2
reactant | triethylamine | 3.33 mmol, 468 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.00 mmol, 77.4 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2.8 mL | ClCCl | CH2Cl2
product | [5-(2,2,2-Trifluoroethoxy)pyridin-2-yl]methyl methanesulfonate | 129 mg | CS(=O)(=O)OCC1=NC=C(C=C1)OCC(F)(F)F | C9H10F3NO4S
